US05120738
Preparation of S-4-Aminophenyl 9-Octadecenethioate
Oleic acid (2.82 g) and 1.88 g of p-aminothiophenol were reacted in the same manner as in Reference Example 11 to obtain 2.86 g of the objective compound (yield: 74%).

reactant | Oleic acid | 2.82 g | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | p-aminothiophenol | 1.88 g | NC1=CC=C(C=C1)S | C6H7NS
product | S-4-Aminophenyl 9-Octadecenethioate | 2.86 g, yield: 74% | C(CCCCCCCC=CCCCCCCCC)(SC1=CC=C(C=C1)N)=O | C24H39NOS
